US08975254B2
b) 5-(3,4-dichlorophenyl)-1H-pyrazole
5-(3,4-Dichlorophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole (2.840 g, 9.56 mmol) and 10% HCl in EtOH (1.9 mmol/ml) (10 ml) were added into a flask and stirred over the weekend at RT. The mixture was then evaporated. Water (45 ml) was added and the mixture was neutralized with saturated NaHCO3. The mixture was extracted with ethyl acetate and the combined organic phases dried with Na2SO4. The drying agent was filtered off and the resulting mixture evaporated and dried with vacuum at 40° C. The product was used as such, without any further purifications. 1H-NMR (400 MHz; DMSO-d6): δ 6.83-6.86 (m, 1H), 7.65 (d, 1H), 7.72-7.86 (m, 2H), 8.05 (d, 1H), 13.06 (s, 1H).

reactant | 5-(3,4-Dichlorophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole | 9.56 mmol, 2.840 g | ClC=1C=C(C=CC1Cl)C1=CC=NN1C1OCCCC1 | C14H14Cl2N2O
reactant | HCl | Cl | ClH
solvent | EtOH | 1.9 mmol/ml, 10 ml | CCO | C2H6O
product | 5-(3,4-dichlorophenyl)-1H-pyrazole | ClC=1C=C(C=CC1Cl)C1=CC=NN1 | C9H6Cl2N2
